US07439379B2
To a solution of 2-(2,3,4,5-tetramethylcyclopentadienyl)benzaldehyde (10.0 mmol) in ethanol (30.0 mL) were added dropwise acetic acid (1.0 mmol) and 2,4,6-trimethylaniline (10.5 mmol) under a nitrogen atmosphere. The mixture was stirred at room temperature. After disappearance of the aldehyde was confirmed by gas chromatography, the solvent was distilled off under reduced pressure to give N-[2-(2,3,4,5-tetramethylcyclopentadienyl)phenylmethylene]-N-(2,4,6-trimethylphenyl) amine (3.43 g, yield 100%).

reactant | 2-(2,3,4,5-tetramethylcyclopentadienyl)benzaldehyde | 10.0 mmol | CC=1C(C(=C(C1C)C)C)C1=C(C=O)C=CC=C1 | C16H18O
reactant | acetic acid | 1.0 mmol | C(C)(=O)O | C2H4O2
reactant | 2,4,6-trimethylaniline | 10.5 mmol | CC1=C(N)C(=CC(=C1)C)C | C9H13N
solvent | ethanol | 30.0 mL | C(C)O | C2H6O
product | N-[2-(2,3,4,5-tetramethylcyclopentadienyl)phenylmethylene]-N-(2,4,6-trimethylphenyl) amine | 3.43 g, yield 100% | CC=1C(C(=C(C1C)C)C)C1=C(C=CC=C1)C=NC1=C(C=C(C=C1C)C)C | C25H29N
